US05852011
3,5-Bis[N,N-bis(2-chloroethyl)amino]benzoic acid
A suspension of 1.59 g (3.82 mmol) of methyl 3,5-bis[N,N-bis(2-chloroethyl)amino]benzoate in 48 ml of concentrated hydrochloric acid was heated at 50° C. for 5 hours. After completion of the reaction, the suspension was extracted with methylene chloride. The extract was washed with an aqueous solution of sodium hydrogencarbonate and then with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and was then concentrated. The resultant residue was purified by flush chromatography (methanol/chloroform=1/20), whereby 1.01 g of the title compound were obtained as colorless crystals.

reactant | methyl 3,5-bis[N,N-bis(2-chloroethyl)amino]benzoate | 3.82 mmol, 1.59 g | ClCCN(CCCl)C=1C=C(C(=O)OC)C=C(C1)N(CCCl)CCCl | C16H22Cl4N2O2
solvent | hydrochloric acid | 48 ml | Cl | ClH
product | 3,5-Bis[N,N-bis(2-chloroethyl)amino]benzoic acid | 1.01 g | ClCCN(CCCl)C=1C=C(C(=O)O)C=C(C1)N(CCCl)CCCl | C15H20Cl4N2O2
